US09340544B2
6-(4-Chloro-phenylsulfanyl)-2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purine (Compound 6.6)
Was prepared according to Example 6 from 2-chloro-6-(4-chloro-phenylsulfanyl)-9-methyl-9H-purine and 3,5-dimethylpyrazole.

reactant | 2-chloro-6-(4-chloro-phenylsulfanyl)-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)SC1=CC=C(C=C1)Cl | C12H8Cl2N4S
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | 6-(4-Chloro-phenylsulfanyl)-2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purine | ClC1=CC=C(C=C1)SC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1C)C)C | C17H15ClN6S
